US06797726B1
In 66 mL of dimethyl sulfoxide is dissolved 15.2 g of ethyl 4-ethoxycarbonyl-2,3,6-trifluorophenylacetate, to which are added 7.84 g of potassium carbonate and 4.54 g of sodium hydrosulfide n-hydrate(purity 70%). The mixture is stirred at 40° C. for 2 hours. The reaction mixture is cooled to 5° C., 8.1 mL of tert-butyl chloroacetate is added, and the mixture thus formed is stirred at the same temperature as above for 20 minutes. Then, 6.36 g of potassium tert-butoxide is added and stirred for one hour. Water and ethyl acetate are added to the reaction mixture, pH is adjusted to 1 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water, saturated aqueous solution of sodium bicarbonate and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. Thus, 19.2 g of tert-butyl 6-(2-ethoxy-2-oxoethyl)-5,7-difluoro-3-oxo-2,3-dihydrobenzo[b]thiophene-2-carboxylate is obtained.

reactant | ethyl 4-ethoxycarbonyl-2,3,6-trifluorophenylacetate | 15.2 g | C(C)OC(=O)C1=C(C(=C(C(=C1)F)CC(=O)OCC)F)F | C13H13F3O4
reactant | potassium carbonate | 7.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl chloroacetate | 8.1 mL | ClCC(=O)OC(C)(C)C | C6H11ClO2
reactant | potassium tert-butoxide | 6.36 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
reactant | dimethyl sulfoxide | 66 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | tert-butyl 6-(2-ethoxy-2-oxoethyl)-5,7-difluoro-3-oxo-2,3-dihydrobenzo[b]thiophene-2-carboxylate | 19.2 g | C(C)OC(CC=1C(=CC2=C(SC(C2=O)C(=O)OC(C)(C)C)C1F)F)=O | C17H18F2O5S
